2123-02-04 12:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels substantially better.
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Celecoxib
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2123-2-2**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy, decr
   plts
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine,
   Prednisone
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2123-2-4**] 12:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**24**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 94 (84 - 101) bpm
   BP: 142/66(85) {137/66(85) - 142/69(87)} mmHg
   RR: 17 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.9 kg (admission): 67.4 kg
                  Total In:
                                                                  1,245 mL
                                                                    580 mL
   PO:
                                                                    900 mL
                                                                    580 mL
   TF:
   IVF:
                                                                    345 mL
   Blood products:
   Total out:
                                                                  1,659 mL
                                                                    535 mL
   Urine:
                                                                  1,659 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -414 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube, ecchymosis on R face
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ),
   No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t) Diastolic), [**2-6**]
   holosyst
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , Wheezes
   : diffuse, No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   86 K/uL
   215 mg/dL
   1.6 mg/dL
   19 mEq/L
   3.9 mEq/L
   46 mg/dL
   102 mEq/L
   133 mEq/L
   23.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2123-2-2**]  12:44 PM
                             [**2123-2-2**]  12:59 PM
                             [**2123-2-2**]  03:31 PM
                             [**2123-2-2**]  10:36 PM
                             [**2123-2-3**]  01:53 AM
                             [**2123-2-3**]  04:43 AM
                             [**2123-2-3**]  07:30 AM
                             [**2123-2-3**]  02:21 PM
                             [**2123-2-4**]  12:18 AM
                             [**2123-2-4**]  05:16 AM
   WBC
   4.6
   7.3
   Hct
   23.8
   23.2
   Plt
   41
   86
   Cr
   1.2
   1.2
   1.4
   1.5
   1.5
   1.4
   1.6
   1.6
   1.6
   TCO2
   19
   Glucose
   [**Telephone/Fax (2) 13051**]
   Other labs: PT / PTT / INR:13.0/26.3/1.1, Ca++:8.3 mg/dL, Mg++:2.7
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPERGLYCEMIA
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   She is certainly better. Additional history obtained with her family
   suggests severe COPD at baseline - she can only walk ~30 ft.  She
   certainly has cardiac dis and I am confident smre of her improvement
   stems from diuresis and better rx of her heart dis.  Continuing ACE,
   diuretic. Tapering prednisone. Continue MDIs. Needs outpt pulmonary
   F/U  and PFTs. Would also recheck echo in a few weeks
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2123-2-2**] 09:36 PM
   Arterial Line - [**2123-2-2**] 10:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes